US04011243
0.5 Gm. of phosphorus pentachloride is added to a solution of 0.5 gm. of 2-(2-propenyl)5H-dibenzo[a,d]cyclohepten-5-one in 20 ml. of benzene, and the mixture is stirred for one hour, and then added to a mixture of 1.0 ml. of ethylene glycol, 1.0 ml. of triethylamine and 20 ml. of acetonitrile. After 2 hours the mixture is washed with water, dried and evaporated to give a nearly quantitative yield of 5,5-ethylenedioxy-2-(2-propenyl)5H-dibenzo[a,d] cycloheptene.

reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-(2-propenyl)5H-dibenzo[a,d]cyclohepten-5-one | C(C=C)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C18H14O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5,5-ethylenedioxy-2-(2-propenyl)5H-dibenzo[a,d] cycloheptene | quantitative yield | C1OC2(C3=C(C=CC4=C2C=CC(=C4)CC=C)C=CC=C3)OC1 | C20H18O2
